US06734191B2
AMD9780: Preparation of (1H-Benzimidazol-2-ylmethyl)-pyridin-4-ylmethyl-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine
Following General Procedure B: To a solution of (1-tert-butoxycarbonyl-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydroquinolin-8-yl)-amine (120 mg, 0.32 mmol) and 4-pyridinecarboxaldehyde (30 μL, 0.32 mmol) in CH2Cl2 (5 mL) was added sodium triacetoxyborohydride (136 mg, 0.64 mmol) and the reaction stirred for 18 h. The resulting crude material was taken up in neat TFA (1 mL) and stirred 3 h. Saturated aqueous sodium bicarbonate (5 mL) was added, and the resulting mixture was extracted with CH2Cl2 (3×10 mL) then the combined organic extracts were dried (MgSO4), and concentrated in vacuo. Purification of the crude material by radial chromatography (1 mm plate, 50:1:1 CH2Cl2-MeOH-NH4OH) afforded the title compound (83 mg, 70%) as a white solid. 1H NMR (CDCl3) δ1.68-1.72 (m, 1H), 1.97-2.06 (m, 2H), 2.26-2.30 (m, 1H), 2.74-2.77 (m, 1H), 2.80-2.86 (m, 1H), 3.77 (s, 2H), 3.92 (d, 1H, J=16 Hz), 4.09 (dd, 1H, J=9, 7 Hz), 4.17 (d, 1H, J=16 Hz), 7.18-7.22 (m, 3H), 7.36 (d, 2H, J=6 Hz), 7.44 (dd, 1H, J=7.1 Hz), 7.52 (br d, 1H, J=7 Hz), 7.66 (br d, 1H, J=7 Hz), 8.46 (dd, 2H, J=5, 2 Hz), 8.70 (dd, 1H, J=5, 1 Hz); 13C NMR (CDCl3) δ21.2, 23.8, 29.0, 49.1, 53.0, 60.5, 110.9, 118.8, 121.4, 121.9, 122.5, 123.3, 133.7, 134.7, 137.4, 144.2, 146.9, 148.7, 149.8, 155.4, 156.9. ES-MS m/z 370 (M+H). Anal. Calcd. for C23H23N5.0.2H2O.0.2CH2Cl2: C, 71.44; H, 6.15; N, 17.95. Found: C, 71.63; H, 6.30; N, 17.77.

reactant | (1-tert-butoxycarbonyl-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydroquinolin-8-yl)-amine | 0.32 mmol, 120 mg | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)CNC2CCCC=1C=CC=NC21 | C22H26N4O2
reactant | 4-pyridinecarboxaldehyde | 0.32 mmol, 30 μL | N1=CC=C(C=C1)C=O | C6H5NO
reactant | sodium triacetoxyborohydride | 0.64 mmol, 136 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 5 mL | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (1H-Benzimidazol-2-ylmethyl)-pyridin-4-ylmethyl-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine | 83 mg, 70% | N1C(=NC2=C1C=CC=C2)CN(C2CCCC=1C=CC=NC21)CC2=CC=NC=C2 | C23H23N5
